US03943154
EXAMPLE 13: 3-[4-(4-METHYLBENZENESULFONAMIDO)BENZENESULFONYL]ACRYLONITRILE
4.9 grams (0.025 mol) of para-toluenesulfonyl chloride, and 4.5 g (0.025 mol) of 3-(4-aminobenzenesulfonyl) acrylonitrile in chlorofrom are reacted for 48 hours at room temperature in the presence of 2.2 ml (0.027 mol) of pyridine, and the reaction mixture is worked up as in Example 1. The product, recrystallized from ethanol, and having a melting point of 172°-175° C, is 3-[4-(4-methylbenzenesulfonamido)benzenesulfonyl]acrylonitrile: ##SPC13##

reactant | para-toluenesulfonyl chloride | 0.025 mol, 4.9 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-(4-aminobenzenesulfonyl) acrylonitrile | 0.025 mol, 4.5 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | pyridine | 0.027 mol, 2.2 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4-(4-METHYLBENZENESULFONAMIDO)BENZENESULFONYL]ACRYLONITRILE | CC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C16H14N2O4S2
